US05298498
(b) [2,7-naphthalenediylbis(methylene)]bisphosphonic acid tetramethyl ester
The crude product from Example 27(a), a 1:1 mixture of dibromo and tribromo products (assumed to contain 0.010 mole of each), is dissolved in toluene (25 mL) and trimethylphosphite (10 mL, 0.085 mole). The mixture is heated at reflux temperature for 24 h after which excess toluene and trimethylphosphite are removed under reduced pressure. The dark red residue is chromatographed (400 g of 40-63 μm silica gel, 10% methanol in chloroform, 50 mL fractions), with fractions 31-36 containing 4.90 g of material which is rechromatographed (400 g of 40-63 μM silica gel, ethyl acetate, 50 mL fractions). The column is eluted with ethyl acetate (1 L) and then with 10% methanol in ethyl acetate. Fractions 70-92 (2.09 g) still contained two components (tlc, silica gel, 10% CH3OH--CHCl3, 4% CH3OH--CH2Cl2) and is chromatographed (400 g of 40-63 μM silica gel, CH2Cl2, 50 mL fractions) a third time. Elution is with 4% CH3OH--CH2Cl2 through fraction 80 and then with 10% CH3OH--CH2Cl2. Fractions 41-47 contained the desired diphosphonate (1.418 g) as a viscous oil which slowly solidifies. Crystallization from acetone-hexane give crystals, mp 87°-88° C.

reactant | trimethylphosphite | 0.085 mole, 10 mL | COP(OC)OC | C3H9O3P
reactant | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | [2,7-naphthalenediylbis(methylene)]bisphosphonic acid tetramethyl ester | COP(OC)(=O)CC1=CC=C2C=CC(=CC2=C1)CP(OC)(OC)=O | C16H22O6P2
